US08865713B2
Step A: 4-Chloro-5-methoxy-2-nitro-phenylamine.
To a mixture of 4,5-dichloro-2-nitro-phenylamine (1.29 g, 6.23 mmol) and dry MeOH (2 mL), a 25 wt % solution of sodium methoxide in MeOH (10 mL) was added and the mixture stirred for 6 h at 100° C. in a sealed tube. The mixture was cooled to 23° C., poured into water (50 mL), and extracted with EtOAc (3×50 mL). The combined organic layers were washed with brine (25 mL), dried, filtered, and concentrated under reduced pressure to afford the titled compound (0.700 g, 56%). The crude material was used without further purification in the next reaction.

reactant | 4,5-dichloro-2-nitro-phenylamine | 6.23 mmol, 1.29 g | ClC1=CC(=C(C=C1Cl)N)[N+](=O)[O-] | C6H4Cl2N2O2
reactant | sodium methoxide | C[O-].[Na+]
reactant | water | 50 mL | O | H2O
solvent | MeOH | 10 mL | CO | CH4O
solvent | MeOH | 2 mL | CO | CH4O
product | 4-Chloro-5-methoxy-2-nitro-phenylamine | 0.700 g, 56% | ClC1=CC(=C(C=C1OC)N)[N+](=O)[O-] | C7H7ClN2O3
